US04242510
EXAMPLE 4: 7-[2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-3-[5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)
2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid (syn isomer, 1 g.) was allowed to react with 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (2 g.) in a similar manner to that of Example 1 to give the captioned compound (2.2 g.), pale yellow powder, mp. 160° to 165° C. (dec.).

reactant | 2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetic acid | 1 g | O1CCSC=C1C(C(=O)O)=NOC | C7H9NO4S
reactant | 7-amino-3-(5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 2 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O | C11H12N4O3S3
product | 7-[2-(2,3-Dihydro-1,4-oxathiin-6-yl)-2-methoxyiminoacetamido]-3-[5-methyl-1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | O1CCSC=C1C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC=2SC(=NN2)C)C(=O)O)C1=O)=NOC | C18H19N5O6S4
